US20010041725A1
N-(2-Cyclohexylethyl)-(4-pyridyl)methylamine (Reference Compound No. 2-1)
To a solution of 2-cyclohexylethyl bromide (1.50 g) in ethanol (16 ml) are added 4-picolylamine (1.00 g), anhydrous potassium carbonate (1.32 g) and sodium iodide (3.49 g), and the mixture is refluxed for 17 hours with stirring. Water is added to the reaction mixture, and the whole is extracted with ether. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography to give the titled compound (Reference compound No. 2-1, 0.68 g).

reactant | 2-cyclohexylethyl bromide | 1.50 g | C1(CCCCC1)CCBr | C8H15Br
reactant | 4-picolylamine | 1.00 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | potassium carbonate | 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3.49 g | [I-].[Na+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | N-(2-Cyclohexylethyl)-(4-pyridyl)methylamine | C1(CCCCC1)CCNCC1=CC=NC=C1 | C14H22N2
